US06251921B1
Preparation of 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-[1-oxo-2-(1,1-dioxothiomorpholin-4-yl)ethylamino]phenyl]benzo[b]thiophene
3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-(4-aminophenyl)benzo[b]thiophene (50 mg) and (1,1-dioxothiomorpholin-4-yl)acetic acid (30 mg) were dissolved in DMF (2.0 mL), treated with DCC (30 mg) and HOAt (28 mg) sequentially, and allowed to stir at ambient temperature under argon for 19 h. The reaction mixture was diluted with brine (30 mL), extracted with ethyl acetate (20 mL×3). The combined organic layers were dried with sodium sulfate and concentrated. Chromatography with Et3N:MeOH:EtOAc (5:5:90) afforded the title compound (65 mg).

reactant | 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-(4-aminophenyl)benzo[b]thiophene | 50 mg | N1(CCCC1)CCOC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)N)C=CC=C3)C=C1 | C27H28N2OS
reactant | (1,1-dioxothiomorpholin-4-yl)acetic acid | 30 mg | O=S1(CCN(CC1)CC(=O)O)=O | C6H11NO4S
reactant | DCC | 30 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOAt | 28 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | brine | 30 mL | [Cl-].[Na+].O
product | 3-[4-[2-(1-Pyrrolidinyl)ethoxy]benzyl]-2-[4-[1-oxo-2-(1,1-dioxothiomorpholin-4-yl)ethylamino]phenyl]benzo[b]thiophene | 65 mg | N1(CCCC1)CCOC1=CC=C(CC=2C3=C(SC2C2=CC=C(C=C2)NC(CN2CCS(CC2)(=O)=O)=O)C=CC=C3)C=C1 | C33H37N3O4S2
